US09144757B2
To 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride (8.56 g, 34 mmol) in water (45 ml) was adjusted to pH 6.0. Cyanogen bromide (3.91 g, 37 mmol) was added and the mixture stirred for 4 hours. The reaction mixture was analyzed by HPLC. The pH of the reaction mixture was adjusted to pH 4.0 with 40% (v/v) sodium hydroxide. The mixture was cooled to 4° C. and the brown solid filtered and washed with water. The material was dried to yield a brown solid 5-(2H-tetrazol-5-yl)-1H-benzimidazol-2y-amine (4.10 g) with a purity of 88%, Rt=7.3 mins. To a suspension of crude 5-(2H-tetrazol-5-yl)-1H-benzimidazol-2-ylamine (4.10 g) in water (40 ml), the pH was adjusted to 1.2 with 50% (v/v) hydrochloric acid. Activated carbon was then added (0.2 g) and the mixture stirred for 18 hours. The mixture was filtered and the pH of the filtrate adjusted to pH 3.7 to yield a tan colored solid. The material was dried (3.01 g) and had a purity of >97% by HPLC. 1H NMR (d6-DMSO, 400 MHz) 13.04 ppm (0.3H, s), 12.99 ppm (0.3H, s), 8.85 ppm (1H, s), 8.074 ppm (1H, s), 7.96 ppm (dd, 8.4 Hz, 1.2 Hz), 7.55 ppm (d, 8.4 Hz). MS: (Electrospray+) 201.8 m/z (M+), 223.7 m/z (M+Na).

reactant | 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride | 34 mmol, 8.56 g | Cl.Cl.N=1NN=NC1C=1C=C(C(=CC1)N)N
reactant | Cyanogen bromide | 37 mmol, 3.91 g | N#CBr | CBrN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 45 ml | O | H2O
product | 5-(2H-tetrazol-5-yl)-1H-benzimidazol-2y-amine | 4.10 g | N=1NN=NC1C1=CC2=C(NC(=N2)N)C=C1 | C8H7N7
